US05084084
Synthesis of 3-(7-fluoro-3-oxo-4-propargyl-2H -1,4-benzoxazin-6-yl)-6-trifluoromethyl-2,4 (1H,3H)-pyrimidinedione (compound A- 2)
1.10 g of ethyl 3-amino-4,4,4-trifluorocrotonate was added to a mixture of 0.33 g of sodium methoxide and 5 ml of dimethylformamide at room temperature. After standing for 20 minutes, the mixed solution was added with 1.76 g of 6-ethoxycarbonylamino-7-fluoro-3-oxo-4-propargyl-2H-1,4-benzoxazine and heated at 130° C. for 4 hours. After cooling the solution to room temperature, the solution was poured into ice water and the resultant solution was extracted twice with diethyl ether. The aqueous layer was made acidic with dilute hydrochloric acid and extracted three times with ethyl acetate. The ethyl acetate extract was washed with a saturated sodium chloride aqueous solution and dried over anhydrous sodium sulfate. After distilling off ethyl acetate, the residue was purified by column chromatography using chloroform as developing solvent to obtain 0.20 g of the objective compound as pale yellow crystals.

reactant | ethyl 3-amino-4,4,4-trifluorocrotonate | 1.10 g | N\C(=C/C(=O)OCC)\C(F)(F)F | C6H8F3NO2
reactant | sodium methoxide | 0.33 g | C[O-].[Na+]
reactant | 6-ethoxycarbonylamino-7-fluoro-3-oxo-4-propargyl-2H-1,4-benzoxazine | 1.76 g | C(C)OC(=O)NC=1C(=CC2=C(N(C(CO2)=O)CC#C)C1)F | C14H13FN2O4
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 3-(7-fluoro-3-oxo-4-propargyl-2H -1,4-benzoxazin-6-yl)-6-trifluoromethyl-2,4 (1H,3H)-pyrimidinedione | 0.20 g | FC1=CC2=C(N(C(CO2)=O)CC#C)C=C1N1C(NC(=CC1=O)C(F)(F)F)=O | C16H9F4N3O4
